US07223789B2
N-(3,5-dichloropyrid-4-yl)-1-methoxy-9-methyl-6-amino-9H-4-carbazolecarboxamide (75 mg, 0.00018 mol) was suspended in THF (5 ml) and added with pyridine (28 mg, 0.00036 mol) and stirred at room temperature for 10 minutes. The solution obtained, was added with a solution of ethane sulphonyl chloride (34 mg, 0.00027 mol) in dry THF (5 ml). The reaction mixture was stirred for 1 hr. THF was evaporated and the solid was washed with water to get crude solid which was column chromatographed using 10% methanol in chloroform to give N-3,5-dichloropyrid-4-yl)-1-methoxy-9-methyl-6-ethane sulphonamido-9H-4-carbazolecarboxamide (20 mg), mp>250° C.

reactant | N-(3,5-dichloropyrid-4-yl)-1-methoxy-9-methyl-6-amino-9H-4-carbazolecarboxamide | 0.00018 mol, 75 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=CC=C(C=C3C12)N)C)OC)Cl | C20H16Cl2N4O2
reactant | pyridine | 0.00036 mol, 28 mg | N1=CC=CC=C1 | C5H5N
reactant | ethane sulphonyl chloride | 0.00027 mol, 34 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-methoxy-9-methyl-6-ethane sulphonamido-9H-4-carbazolecarboxamide | 20 mg | COC1=CC=C(C=2C3=CC(=CC=C3N(C12)C)NS(=O)(=O)CC)C(=O)N | C17H19N3O4S
